* D:\503544_UAS Elday_Muhammad Fathan Zahir\Task1\Circuit1.asc
* Generated by LTspice 26.0.1 for Windows.
CD N001 0 10µ
RL N001 N002 12
M1 N002 N004 0 0 IRFZ44N
RG N004 N003 1k
VGG N003 0 PULSE(0 12 0 1n 1n 5u 10u)
VD N001 0 12
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lenovo\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100u
* Muhammad Fathan Zahir\n22/503544/TK/55025
.backanno
.end
