* D:\Fathan\Tugas\UAS ELDAY-20251223T100743Z-3-001\UAS ELDAY\503544_UAS Elday_Muhammad Fathan Zahir\Task1\circuit2.asc
* Generated by LTspice 26.0.1 for Windows.
CD1 N001 0 10µ
RL1 N001 N003 12
M1 N003 N006 0 0 IRFZ44N
RG1 N004 N005 1k
VGG1 N005 0 PULSE(0 12 0 1n 1n 5u 10u)
VS N001 0 12
Q1 N002 N004 N006 0 2N2222
Q2 0 N004 N006 0 2N2907
V1 N002 0 12
.model NPN NPN
.model PNP PNP
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100u
* Muhammad Fathan Zahir\n22/503544/TK/55025
.backanno
.end
